US04707488
1-Benzyl-5-mercaptotetrazole
Benzyl isothiocyanate (0.020 mol) and sodium azide (0.030 mol) were reacted substantially as described in Example 1C above to yield 0.27 g (7%) white needles: mp 141°-142° (chloroform/pet. ether).

reactant | Benzyl isothiocyanate | 0.020 mol | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | sodium azide | 0.030 mol | [N-]=[N+]=[N-].[Na+]
product | 1-Benzyl-5-mercaptotetrazole | 0.27 g, 7% | C(C1=CC=CC=C1)N1N=NN=C1S | C8H8N4S
